US05928999
4-Chloro-3-(4-chloro-3-chlorosulfonylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole (No. Ia.047)
47.9 g (0.16 mol) of 4-chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole were added a little at a time at 0° C. to 91 ml of chlorosulfonic acid. The mixture was stirred at 130° C. for 4 hours and then cooled, and the solution was poured carefully into ice-water. Product dissolved in the aqueous phase was extracted twice with dichloromethane. The combined organic phases were subsequently washed with saturated sodium hydrogen carbonate solution and with sodium chloride solution, then dried over magnesium sulfate and finally concentrated. Yield: 47.9 g.

reactant | 4-chloro-3-(4-chlorophenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.16 mol, 47.9 g | ClC=1C(=NN(C1OC(F)F)C)C1=CC=C(C=C1)Cl | C11H8Cl2F2N2O
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
product | 4-Chloro-3-(4-chloro-3-chlorosulfonylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=CC(=C(C=C1)Cl)S(=O)(=O)Cl | C11H7Cl3F2N2O3S
